US04081543
5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinoline [process c)]
A mixture of 2.0 g of 5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinolin-2-yl-carboxylic acid ethyl ester and 4.0 g of potassium hydroxide in 20 ml of n-butanol is boiled for 2 hours. After cooling to room temperature, the mixture is diluted with benzene, washed neutral with water and extracted 3 times with a 10% aqueous tartaric acid solution. The acid solution is washed with ether, made alkaline by the addition of 40% caustic soda solution and extracted with benzene. The benzene extract is washed with water and dried over magnesium sulphate. The title compound is obtained by evaporation of the benzene solvent and converted into the hydrochloride salt having a M.Pt. from 240° (decomposition).

reactant | 5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinolin-2-yl-carboxylic acid ethyl ester | 2.0 g | C(C)OC(=O)N1CC2=CC3=C(C(=C2CC1)N1C=CC=C1)C=CC=C3 | C20H20N2O2
reactant | potassium hydroxide | 4.0 g | [OH-].[K+]
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-(1-pyrrolyl)-1,2,3,4-tetrahydrobenzo[g]isoquinoline | N1(C=CC=C1)C1=C2CCNCC2=CC2=C1C=CC=C2 | C17H16N2
